### PR TITLE
Update AARCH64 Refine and CRefine for explicit FPU changes

### PR DESCRIPTION
**Pull request by corlewis**

### CODE REVIEW

File: spec/design/skel/X64/FPU_H.thy [hunk 1]
```diff
@@ -13,7 +13,9 @@ imports
 begin
 context Arch begin arch_global_naming (H)
 
-#INCLUDE_HASKELL SEL4/Object/FPU/X64.hs CONTEXT X64_H ArchInv=Arch
+#INCLUDE_HASKELL SEL4/Object/FPU/AARCH64.hs CONTEXT AARCH64_H decls_only ArchInv=Arch ONLY fpuOwner_asrt
```
Comment (Xaphiosis) [inline spec/design/skel/X64/FPU_H.thy:16]: wait what? this in an X64 file

File: spec/haskell/src/SEL4/Object/FPU/X64.hs [hunk 2]
```diff
@@ -29,10 +29,16 @@ loadFpuState tcbPtr = do
...
+-- We do not need all of cur_fpu_valid in the refinement proof, but do need to
+-- cross over the constraint that the current fpu owner is a tcb.
+fpuOwner_asrt :: KernelState -> Bool
+fpuOwner_asrt _ = True
+
 switchLocalFpuOwner :: Maybe (PPtr TCB) -> Kernel ()
 switchLocalFpuOwner newOwner = do
-    doMachineOp enableFpu
     curFpuOwner <- gets (x64KSCurFPUOwner . ksArchState)
+    stateAssert fpuOwner_asrt "there is a tcb at x64KSCurFPUOwner"
```
Comment (Xaphiosis) [inline spec/haskell/src/SEL4/Object/FPU/X64.hs:40]: can we please say TCB for TCBs? I know that we use tcb for code args/vars etc, but for any kind of documentation it should still be TCB

File: proof/invariant-abstract/Detype_AI.thy [hunk 3]
```diff
@@ -1042,7 +1042,7 @@ lemma (in Detype_AI) cte_map_not_null_outside: (*FIXME: arch-split*)
   apply (drule(1) valid_globals_irq_node, fastforce simp: cap_range_def)
   done
 
-
+\<comment> \<open>FIXME: move\<close>
```
Comment (Xaphiosis) [inline proof/invariant-abstract/Detype_AI.thy:1045]: this and the next FIXME move are added as part of "aarch64 ainvs: update for spec changes" which is a bit odd.
also, nearly all our FIXME comments are in `(* FIXME ... *)` form, which makes grepping easier. Any reason why these ones are using the `― ‹FIXME: move›` version?

File: proof/refine/Invariants_H.thy [hunk 4]
```diff
@@ -2695,6 +2695,14 @@ lemma obj_at'_ko_at'_prop:
   "ko_at' ko t s \<Longrightarrow> obj_at' P t s = P ko"
   by (drule obj_at_ko_at', clarsimp simp: obj_at'_def)
 
+lemma ko_wp_at'_not_o:
+  "ko_wp_at' (\<lambda>a. \<not> P a) t s = ko_wp_at' (Not o P) t s"
```
Comment (Xaphiosis) [inline proof/refine/Invariants_H.thy:2699]: Not a fan of these: \<circ> is newer than `o`, and also it's fun_comp or comp, the suffix "not_o" is not guessable, and on top of that this is an equality lemma. If you look at some of the lemmas above, it doesn't blend in at all.

File: proof/refine/AARCH64/Tcb_R.thy [hunk 5]
```diff
@@ -2639,6 +2719,13 @@ lemma decodeSetTLSBase_wf:
              cong: list.case_cong)
   by wpsimp
 
+lemma decodeSetFlags_wf[wp]:
+  "\<lbrace>invs' and tcb_at' t and ex_nonz_cap_to' t\<rbrace>
+     decodeSetFlags w (capability.ThreadCap t)
```
Comment (Xaphiosis) [inline proof/refine/AARCH64/Tcb_R.thy:2724]: indentation on decodeSetFlags should go left

File: proof/refine/AARCH64/Tcb_R.thy [hunk 6]
```diff
@@ -2639,6 +2719,13 @@ lemma decodeSetTLSBase_wf:
...
+   \<lbrace>tcb_inv_wf'\<rbrace>,-"
+  apply (simp add: decodeSetFlags_def)
+  by wpsimp
```
Comment (Xaphiosis) [inline proof/refine/AARCH64/Tcb_R.thy:2727]: unfolding / by wpsimp?

File: proof/refine/AARCH64/Tcb_R.thy [hunk 7]
```diff
@@ -1655,6 +1659,51 @@ lemma setSchedulerAction_invs'[wp]:
...
+  apply (cut_tac flag=x in tcbFlagToWord_bit)
+  apply (fastforce simp: word_eq_iff tcbFlagToWord_bit)
+  done
+
+lemmas word_to_tcb_flags_simps = word_to_tcb_flags_subtract word_to_tcb_flags_union
+
+lemma postSetFlags_corres[corres]:
+  "flags = word_to_tcb_flags flags' \<Longrightarrow>
+   corres dc (pspace_aligned and pspace_distinct and valid_cur_fpu) \<top>
+         (arch_post_set_flags  t flags) (postSetFlags t flags')"
```
Comment (Xaphiosis) [inline proof/refine/AARCH64/Tcb_R.thy:1701]: indentation: `(arch_post_set_flags` should align with something

File: proof/refine/AARCH64/TcbAcc_R.thy [hunk 8]
```diff
@@ -1729,6 +1729,12 @@ lemma asUser_tcbPriority_inv[wp]:
   apply (wp threadSet_obj_at'_strongish getObject_tcb_wp | wpc | simp | clarsimp simp: obj_at'_def)+
   done
 
+lemma asUser_tcbState_inv[wp]:
+  "\<lbrace>obj_at' (\<lambda>tcb. P (tcbState tcb)) t'\<rbrace> asUser t m \<lbrace>\<lambda>_. obj_at' (\<lambda>tcb. P (tcbState tcb)) t'\<rbrace>"
+  apply (simp add: asUser_def threadGet_def)
+  apply (wpsimp wp: getObject_tcb_wp simp: obj_at'_def)
+  done
```
Comment (Xaphiosis) [inline proof/refine/AARCH64/TcbAcc_R.thy:1736]: by ... ...  compression

File: proof/refine/AARCH64/Retype_R.thy [hunk 9]
```diff
@@ -2397,6 +2397,10 @@ lemma other_objs_default_relation:
                  split: Structures_A.apiobject_type.split_asm)
   done
 
+lemma word_to_tcb_flags_0[simp]:
+  "word_to_tcb_flags 0 = {}"
+  by (clarsimp simp: word_to_tcb_flags_def)
```
Comment (Xaphiosis) [inline proof/refine/AARCH64/Retype_R.thy:2402]: consider moving higher up, but up to you

File: proof/refine/AARCH64/Init_R.thy [hunk 10]
```diff
@@ -29,22 +29,19 @@ context begin interpretation Arch . (*FIXME: arch-split*)
   system.
 *)
 
-definition zeroed_arch_abstract_state ::
-  arch_state
-  where
+definition zeroed_arch_abstract_state :: arch_state where
```
Comment (Xaphiosis) [inline proof/refine/AARCH64/Init_R.thy:32]: checking: you did the update to new style on other arches before as well right?

File: proof/crefine/AARCH64/Refine_C.thy [hunk 11]
```diff
@@ -529,141 +529,50 @@ lemma handleUserLevelFault_ccorres':
...
       od)
      (Call armv_handleVCPUFault_'proc)"
   supply Collect_const[simp del]
   apply (rule ccorres_grab_asm)
   apply (cinit' lift: hsr___unsigned_long_')
-   apply simp
    apply ccorres_rewrite
-   (* we are discarding the entire FPU-fault handling IF calculation because we know isFpuEnable
-      is abstracted to return True until the FPU model is updated, and so the Haskell side does not
-      even feature the HSR calculation for the FPU fault *)
```
Comment (Xaphiosis) [inline proof/crefine/AARCH64/Refine_C.thy:555]: so nice to see this go away

File: proof/crefine/AARCH64/Schedule_C.thy [hunk 12]
```diff
@@ -75,14 +75,33 @@ crunch vcpuSwitch
...
+     vcpuSwitch (atcbVCPUPtr $ tcbArch tcbobj);
+     setVMRoot tcb
+   od)"
+
+lemma arch_switchToThread_rewrite:
+  "AARCH64_H.switchToThread tcb \<equiv> do
+     arch_switchToThread tcb;
+     lazyFpuRestore tcb
+   od"
+ by (clarsimp simp: AARCH64_H.switchToThread_def arch_switchToThread_def bind_assoc)
```
Comment (Xaphiosis) [inline proof/crefine/AARCH64/Schedule_C.thy:96]: check indent on by

File: proof/crefine/AARCH64/Schedule_C.thy [hunk 13]
```diff
@@ -75,14 +75,33 @@ crunch vcpuSwitch
...
+   To make things line up in switchToThread_ccorres we rewrite ARCH.switchToThread to have the
+   lazyFpuRestore outside of it.\<close>
+definition arch_switchToThread where
+  "arch_switchToThread tcb \<equiv> (do
+     tcbobj \<leftarrow> getObject tcb;
+     vcpuSwitch (atcbVCPUPtr $ tcbArch tcbobj);
+     setVMRoot tcb
+   od)"
+
+lemma arch_switchToThread_rewrite:
```
Comment (Xaphiosis) [inline proof/crefine/AARCH64/Schedule_C.thy:91]: does the _rewrite name fit into any kind of pattern of how we did these before? rewrite is kinda generic

File: proof/crefine/AARCH64/StateRelation_C.thy [hunk 14]
```diff
@@ -114,6 +114,12 @@ definition cur_vcpu_relation ::
       Some acurvcpu \<Rightarrow> cvcpu = Ptr (fst acurvcpu) \<and> cvcpu \<noteq> NULL \<and> cactive = from_bool (snd acurvcpu)
     | None \<Rightarrow> cvcpu = NULL \<and> cactive = 0"
 
+definition cur_fpu_relation :: "machine_word option \<Rightarrow> tcb_C ptr \<Rightarrow> bool" where
+  "cur_fpu_relation akscurfpu cfpu \<equiv>
```
Comment (Xaphiosis) [inline proof/crefine/AARCH64/StateRelation_C.thy:118]: uhh... akscurfpu? it's more like afpu_opt at this point

File: proof/crefine/Move_C.thy [hunk 15]
```diff
@@ -468,6 +468,30 @@ lemma threadGet_tcbFault_submonad_fn:
                         select_f_def modify_def put_def)
   done
 
+lemma is_stateAssert_modify:
+  "\<lbrakk> \<forall>s. \<lbrace>(=) s\<rbrace> f \<lbrace>\<lambda>_. (=) (replace s)\<rbrace>; \<forall>s. \<lbrace>(=) s\<rbrace> f \<lbrace>\<lambda>_ _. guard s\<rbrace>;
+     empty_fail f; no_fail guard f \<rbrakk>
+    \<Longrightarrow> f = do stateAssert guard []; modify replace od"
```
Comment (Xaphiosis) [inline proof/crefine/Move_C.thy:474]: github might be deceiving me, but check indent on `⟹`

File: proof/crefine/Move_C.thy [hunk 16]
```diff
@@ -468,6 +468,30 @@ lemma threadGet_tcbFault_submonad_fn:
...
+  apply (rule ext)
+  apply (clarsimp simp: bind_def empty_fail_def valid_def no_fail_def
+                        stateAssert_def assert_def simpler_modify_def get_def
+                        return_def fail_def image_def split_def)
+  apply (case_tac "f x")
+  apply (intro conjI impI)
+   apply (drule_tac x=x in spec)+
+   apply (subgoal_tac "\<forall>xa\<in>fst (f x). fst xa = () \<and> snd xa = replace x")
```
Comment (Xaphiosis) [inline proof/crefine/Move_C.thy:482]: xa? maybe x' or y?

File: proof/crefine/AARCH64/Tcb_C.thy [hunk 17]
```diff
@@ -4505,6 +4505,104 @@ lemma decodeSetTLSBase_ccorres:
...
+  apply (clarsimp simp: obj_at'_def typ_heap_simps' ctcb_relation_def)
+  done
+
+lemma decodeSetFlags_ccorres:
+  "ccorres (intr_and_se_rel \<currency> dc) (liftxf errstate id (K ()) ret__unsigned_long_')
+       (invs' and sch_act_simple
+              and (\<lambda>s. ksCurThread s = thread) and ct_active' and K (isThreadCap cp)
+              and valid_cap' cp and (\<lambda>s. \<forall>x \<in> zobj_refs' cp. ex_nonz_cap_to' x s)
+              and sysargs_rel args buffer)
+       (UNIV
```
Comment (Xaphiosis) [inline proof/crefine/AARCH64/Tcb_C.thy:4552]: As this is a new lemma, we don't want the UNIV, and I would prefer if you used the modern variable binding style (with acutes and {| |} brackets).
also the >>= is quite deeply indented below

File: proof/crefine/AARCH64/Tcb_C.thy [hunk 18]
```diff
@@ -4505,6 +4505,104 @@ lemma decodeSetTLSBase_ccorres:
...
+  by (clarsimp simp: seL4_TCBFlag_fpuDisabled_def tcbFlagToWord_def archTcbFlagToWord_def)
+
+lemma invokeTCB_SetFlags_ccorres:
+  notes hoare_weak_lift_imp [wp]
+  shows
+  "ccorres (cintr \<currency> (\<lambda>rv rv'. rv = [])) (liftxf errstate id (K ()) ret__unsigned_long_')
+   (invs' and tcb_at' tcb)
+   ({s. thread_' s = tcb_ptr_to_ctcb_ptr tcb}
+         \<inter> {s. clear_' s = clears}
+         \<inter> {s. set_' s = sets}) []
```
Comment (Xaphiosis) [inline proof/crefine/AARCH64/Tcb_C.thy:4519]: indentation is wrong, the intersection belongs to the `(` not to the `{s.`
I would also prefer if you used the modern variable binding style (with acutes and {| |} brackets).

File: proof/crefine/AARCH64/TcbAcc_C.thy [hunk 19]
```diff
@@ -289,6 +289,33 @@ lemma ccorres_pre_getCurVCPU:
   apply (clarsimp simp: rf_sr_ksArchState_armHSCurVCPU)
   done
 
+lemma rf_sr_ksArchState_armHSCurFPU:
+  "(s, s') \<in> rf_sr \<Longrightarrow> cur_fpu_relation (armKSCurFPUOwner (ksArchState s)) (ksCurFPUOwner_' (globals s'))"
+  by (clarsimp simp: rf_sr_def cstate_relation_def carch_state_relation_def Let_def)
+
+lemma ccorres_pre_getCurFPUOwner:
+  assumes cc: "\<And>rv. ccorres r xf (P rv) (P' rv) hs (f rv) c"
+  shows   "ccorres r xf
```
Comment (Xaphiosis) [inline proof/crefine/AARCH64/TcbAcc_C.thy:298]: something strange about this indentation alignment

File: proof/crefine/AARCH64/IsolatedThreadAction.thy [hunk 20]
```diff
@@ -15,11 +15,15 @@ context begin interpretation Arch .
 datatype tcb_state_regs =
   TCBStateRegs (tsrState : thread_state) (tsrContext : "MachineTypes.register \<Rightarrow> machine_word")
 
+definition get_tcb_state_regs_tcb :: "tcb \<Rightarrow> tcb_state_regs" where
+  "get_tcb_state_regs_tcb tcb \<equiv> TCBStateRegs (tcbState tcb) ((user_regs o atcbContextGet o tcbArch) tcb)"
```
Comment (Xaphiosis) [inline proof/crefine/AARCH64/IsolatedThreadAction.thy:19]: \<circ> please

File: proof/crefine/AARCH64/IsolatedThreadAction.thy [hunk 21]
```diff
@@ -1624,25 +1637,180 @@ lemma threadGet_isolatable:
...
+  apply (clarsimp simp: select_f_returns threadGet_stateAssert_gets bind_assoc exec_gets comp_def
+                intro!: ext bind_apply_cong[where f="stateAssert P L" for P L, OF refl]
+                 dest!: fst_stateAssertD)
+  apply (clarsimp simp: simpler_modify_def return_def bind_def)
+  apply (clarsimp simp: obj_at'_def atcbContextSet_def thread_fetch_def atcbContextGet_def thread_replace_def)
+  done
+
+lemma put_tcb_state_regs_tcb_twice[simp]:
+  "put_tcb_state_regs_tcb tsr (put_tcb_state_regs_tcb tsr' tcb)
+    = put_tcb_state_regs_tcb tsr tcb"
```
Comment (Xaphiosis) [inline proof/crefine/AARCH64/IsolatedThreadAction.thy:1697]: indentation: the point of left-wrap operator style is to not have to put extra indentation in, `=` should be under `put`

File: proof/crefine/AARCH64/IsolatedThreadAction.thy [hunk 22]
```diff
@@ -1624,25 +1637,180 @@ lemma threadGet_isolatable:
...
+
+lemma saveFpuState_isolatable:
+  "thread_actions_isolatable idx (saveFpuState t)"
+  apply (simp add: saveFpuState_def asUser_asUserFPU_set)
+  apply (intro thread_actions_isolatable_bind[OF _ _ hoare_weaken_pre]
+               doMachineOp_isolatable asUserFPU_isolatable
+         | wpsimp)+
+  done
+
+lemma asUserFPU_typ_at' [wp]:
```
Comment (Xaphiosis) [inline proof/crefine/AARCH64/IsolatedThreadAction.thy:1769]: we should standardise to not put a space before attributes

File: proof/crefine/AARCH64/ADT_C.thy [hunk 23]
```diff
@@ -140,6 +140,12 @@ where
     then None
     else Some (ptr_val vcpuptr, to_bool vcpuactive)"
 
+definition ccur_fpu_to_H :: "tcb_C ptr \<Rightarrow> machine_word option" where
```
Comment (Xaphiosis) [inline proof/crefine/AARCH64/ADT_C.thy:143]: this is really any TCB pointer to a pointer option, I don't think ccur_fpu_to_H is that helpful as a name here, and cur_fpu_owner argument is misleading; don't we already have a function that does this?

Comment (Xaphiosis) [reply proof/crefine/AARCH64/ADT_C.thy:143]: then again, this is probably copied from `ccur_vcpu_to_H` so I don't know anymore

File: proof/crefine/AARCH64/Invoke_C.thy [hunk 24]
```diff
@@ -93,10 +93,44 @@ lemma setDomain_ccorres:
                          invs'_def valid_state'_def valid_pspace'_def)
   done
 
+lemma prepareSetDomain_ccorres:
+  "ccorres dc xfdc
+      (invs' and tcb_at' t)
+      ({s. tptr_' s = tcb_ptr_to_ctcb_ptr t} \<inter> {s. dom_' s = ucast d})
```
Comment (Xaphiosis) [inline proof/crefine/AARCH64/Invoke_C.thy:99]: can use {| |} / acute style

File: proof/crefine/AARCH64/Invoke_C.thy [hunk 25]
```diff
@@ -93,10 +93,44 @@ lemma setDomain_ccorres:
...
+
 lemma active_runnable':
   "active' state \<Longrightarrow> runnable' state"
   by (fastforce simp: runnable'_def)
 
+lemma invokeDomainSetSet_ccorres:
+  "ccorres dc xfdc
+      (invs' and tcb_at' t and sch_act_simple
+             and (\<lambda>s. d \<le> maxDomain))
+      ({s. tcb_' s = tcb_ptr_to_ctcb_ptr t} \<inter> {s. domain_' s = ucast d}) []
```
Comment (Xaphiosis) [inline proof/crefine/AARCH64/Invoke_C.thy:122]: can use {| |} / acute style

**Review by Xaphiosis — APPROVED** [review]
Bunch of nipticks, but generally things look good and the proof approach seems to be working out. Nice.

Oh, commit message:
"aarch64+x64 spec: changes to ease refinement proofs": has long description with lots of commas, would prefer bullet list, also TCB vs tcb

File: lib/Corres_Method.thy [hunk 26]
```diff
@@ -180,7 +180,7 @@ lemmas corres_split_liftE_bindE [corres_splits] =
    that weak guard, the rule is safe. This enables us to solve trivial cases without adding
    unsafe rules to the [corres] set. *)
 lemmas [corres_term] =
-  corres_return_eq_same corres_gets_trivial select_corres_eq
+  corres_return_eq_same_unit corres_return_eq_same corres_gets_trivial select_corres_eq
```
Comment (lsf37) [inline lib/Corres_Method.thy:183]: Thanks for adding that (and moving the `corres_machine_op_Id` lemmas). That should make `corres` nicer to use in a whole bunch of situations.

File: proof/crefine/AARCH64/ADT_C.thy (hunk 23 above)
Comment (lsf37) [reply proof/crefine/AARCH64/ADT_C.thy:143]: I'm somewhat surprised we don't have this function yet somewhere, it does seem generally useful for all C TCB pointers. +1 for giving it a more general name and argument name.

File: proof/crefine/AARCH64/Machine_C.thy [hunk 27]
```diff
@@ -68,12 +68,6 @@ assumes deactivateInterrupt_ccorres:
            (doMachineOp (deactivateInterrupt irq))
            (Call deactivateInterrupt_'proc)"
 
-(* This is a simplification until complete FPU handling is added at a future date *)
-assumes fpuThreadDelete_ccorres:
```
Comment (lsf37) [inline proof/crefine/AARCH64/Machine_C.thy:72]: So nice to see these go :-)

File: proof/crefine/AARCH64/Schedule_C.thy (hunk 13 above)
Comment (lsf37) [reply proof/crefine/AARCH64/Schedule_C.thy:91]: In general `rewrite` is a bit too vague, but since `arch_switchToThread` is just defined above for begin rewritten into `switchToThread` I would be fine with this one.

File: proof/refine/AARCH64/Schedule_R.thy [hunk 28]
```diff
@@ -156,16 +156,127 @@ lemma vcpu_at_cross:
...
+
+lemma isFlagSet_set:
+  "isFlagSet flag flags = (flag \<in> word_to_tcb_flags flags)"
+  by (clarsimp simp: isFlagSet_def word_to_tcb_flags_def)
+
+lemma lazyFpuRestore_corres[corres]:
+  "corres dc (pspace_aligned and pspace_distinct and valid_cur_fpu and tcb_at t) \<top>
+             (lazy_fpu_restore t) (lazyFpuRestore t)"
+  unfolding lazy_fpu_restore_def lazyFpuRestore_def
+  by (corres corres: threadGet_corres[where r="\<lambda>flags flags'. flags = word_to_tcb_flags flags'"] \<comment> \<open>FIXME: make a tcb_flags_relation?\<close>
```
Comment (lsf37) [inline proof/refine/AARCH64/Schedule_R.thy:262]: > FIXME: make a tcb_flags_relation?

Unless there is a lot more of the same further below, it's probably not worth making a separate definition for it.

File: proof/refine/AARCH64/Tcb_R.thy [hunk 29]
```diff
@@ -1655,6 +1659,51 @@ lemma setSchedulerAction_invs'[wp]:
...
+
+context begin interpretation Arch . (*FIXME: arch-split*)
+
+lemma tcbFlagToWord_bit:
+  "\<exists>n. tcbFlagToWord flag = bit n"
+  by (auto simp: tcbFlagToWord_def archTcbFlagToWord_def split: tcb_flag.splits arch_tcb_flag.splits
+       simp del: bit_def)
+
+lemma word_to_tcb_flags_subtract:
+  "word_to_tcb_flags (flags && ~~ flags') = word_to_tcb_flags flags - word_to_tcb_flags flags'"
```
Comment (lsf37) [inline proof/refine/AARCH64/Tcb_R.thy:1683]: nice that these work out

File: proof/refine/Invariants_H.thy (hunk 4 above)
Comment (lsf37) [reply proof/refine/Invariants_H.thy:2699]: I'd call this one `ko_wp_at'_not_comp_fold`

File: proof/refine/Invariants_H.thy [hunk 30]
```diff
@@ -2695,6 +2695,14 @@ lemma obj_at'_ko_at'_prop:
...
+  by (simp add: ko_wp_at'_def)
+
+lemma obj_at'_not_o:
+  "obj_at' (\<lambda>a. \<not> P a) t s =  obj_at' (Not o P) t s"
```
Comment (lsf37) [inline proof/refine/Invariants_H.thy:2703]: (and here `obj_at'_not_comp_fold`)

**Review by lsf37 — COMMENTED** [review]
Raf already has all the style stuff, so nothing left for me to nitpick on :-) This is turning out quite nicely, I think.

**Comment by corlewis** [comment]
Apologies for adding new content after this had been reviewed but I want to see a green tick so this now also updates Orphanage.

File: spec/design/skel/X64/FPU_H.thy (hunk 1 above)
Comment (corlewis) [reply spec/design/skel/X64/FPU_H.thy:16]: Whoops, copy paste error, thanks for spotting that. It's mildly surprising that that doesn't break anything.

File: proof/invariant-abstract/Detype_AI.thy (hunk 3 above)
Comment (corlewis) [reply proof/invariant-abstract/Detype_AI.thy:1045]: Only because I have a keybind for commenting things out with `― ‹...›` and because I didn't know that people used the comment format for grepping for FIXMEs.

File: proof/refine/Invariants_H.thy (hunk 4 above)
Comment (corlewis) [reply proof/refine/Invariants_H.thy:2699]: These were based on abstract versions for `obj_at`, which is I think where the name and use of `o` instead of `comp` and `<circ>` came from. I'll update them.

With regards to the location, I originally had them where I needed them and wanted to move them somewhere up earlier. This was the best place that I could quickly find in Invariants_H but I'm open to suggestions.

File: proof/refine/AARCH64/Retype_R.thy (hunk 9 above)
Comment (corlewis) [reply proof/refine/AARCH64/Retype_R.thy:2402]: I actually originally had this marked to be moved but I couldn't find anywhere that made sense for it. It's defined in `Structures_A` and then there aren't any other lemmas about it.

File: proof/refine/AARCH64/Init_R.thy (hunk 10 above)
Comment (corlewis) [reply proof/refine/AARCH64/Init_R.thy:32]: Other arches aren't done yet, I'll update them when copying across the changes from this PR.

File: proof/crefine/AARCH64/Schedule_C.thy (hunk 13 above)
Comment (corlewis) [reply proof/crefine/AARCH64/Schedule_C.thy:91]: I couldn't find anything else doing quite the same thing to copy a naming pattern from and just went with rewrite, hoping that it would make sense with the comment I included. It's not a lemma that's intended to be used or found outside of this one specific use case.

File: proof/crefine/AARCH64/StateRelation_C.thy (hunk 14 above)
Comment (corlewis) [reply proof/crefine/AARCH64/StateRelation_C.thy:118]: This is copying `cur_vcpu_relation` just above it. If we're being really pedantic then it should probably be something with owner in the name, since it's not talking about the tcb not the fpu.

File: proof/crefine/AARCH64/ADT_C.thy (hunk 23 above)
Comment (corlewis) [reply proof/crefine/AARCH64/ADT_C.thy:143]: Yeah, this was just following `ccur_vcpu_to_H`, which is a bit more complicated being about VCPUs and needing to take into account whether the VCPU is active or not. If I make it generic should it be moved somewhere else (and if so, any suggestions?)

File: proof/refine/AARCH64/Tcb_R.thy (hunk 29 above)
Comment (corlewis) [reply proof/refine/AARCH64/Tcb_R.thy:1683]: I remember these being the usual word fun to prove, but yeah, very nice that it ended up working smoothly.

File: proof/refine/AARCH64/orphanage/Orphanage.thy [hunk 31]
```diff
@@ -915,20 +901,15 @@ proof -
...
-                                      nextDomain_ct']
-                     hoare_lift_Pf2 [OF st_tcb_at'_is_active_tcb_ptr_lift
-                                      [OF nextDomain_st_tcb_at']
-                                      nextDomain_ct']
-                     hoare_vcg_all_lift getDomainTime_wp)[2]
-          apply wpsimp
+           apply ((wpsimp wp: nextDomain_invs_no_cicd' hoare_vcg_imp_lift'
+                              st_tcb_at'_is_active_tcb_ptr_lift
+                              tcbQueued_all_queued_tcb_ptrs_lift hoare_vcg_all_lift getDomainTime_wp
+                   | wps)+)[2]
```
Comment (Xaphiosis) [inline proof/refine/AARCH64/orphanage/Orphanage.thy:912]: very nice, that hoare_lift_Pf2 looks like something I used to do, glad to see it go

**Review by lsf37 — APPROVED** [review]
Also happy with it.
